US05965491
Preparation of N-Methyl-[5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazol-3-yl]ethanimine N-oxide (Compound No. 4):
A mixture of 2.0 grams (0.005 mole) of 3-acetyl-5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole, 0.83 gram (0.01 mole) of N-methylhydroxylamine hydrochloride, 1.21 ml (0.015 mole) of pyridine and 150 ml of methanol was stirred 68 h at 20° C. The mixture was successively evaporated, washed with CH2Cl2 and water; filtered; washed in hot acetonitrile, acetone, hot methanol; and dried so as to give 0.79 gram of Compound No. 4 (m.p. about 228° C.).

reactant | 3-acetyl-5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole | 0.005 mole, 2.0 grams | C(C)(=O)C1=NN(C(=C1S(=O)C)N)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C13H10Cl2F3N3O2S
reactant | N-methylhydroxylamine hydrochloride | 0.01 mole, 0.83 gram | Cl.CNO
reactant | pyridine | 0.015 mole, 1.21 ml | N1=CC=CC=C1 | C5H5N
solvent | methanol | 150 ml | CO | CH4O
product | N-Methyl-[5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazol-3-yl]ethanimine N-oxide | 0.79 gram | C[N+](=C(C)C1=NN(C(=C1S(=O)C)N)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)[O-] | C14H13Cl2F3N4O2S
